US07638525B2
1-(5-Benzoyl-3-pyridin-4-yl-thiophen-2-yl)-piperidin-4-one
A solution of [5-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-4-pyridin-4-yl-thiophen-2-yl]-phenyl-methanone (39.5 mg, 0.097 mmole), p-toluenesulfonic acid monohydrate (37 mg, 0.194 mmole, 2 eq.), acetone (2 mL), and water (1 mL) was heated to reflux overnight. The solution was diluted with water and made basic to pH 14 with 4N sodium hydroxide or 1 M sodium carbonate solution. The solution was extracted twice with ethyl acetate. The organic extracts were dried over magnesium sulfate, filtered, and purified by column chromatography to provide the product as yellow solid (22 mg, 63%). 1H NMR (CDCl3) δ 8.61 (m, 2H), 7.81-7.45 (m, 8H), 3.46 (m, 4H), 2.52 (m, 4H). MS (m/z): 363 (MH+), 385 (MNa+).

reactant | [5-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-4-pyridin-4-yl-thiophen-2-yl]-phenyl-methanone | 0.097 mmole, 39.5 mg | O1CCOC12CCN(CC2)C2=C(C=C(S2)C(=O)C2=CC=CC=C2)C2=CC=NC=C2 | C23H22N2O3S
reactant | p-toluenesulfonic acid monohydrate | 0.194 mmole, 37 mg, 2 eq. | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | sodium carbonate | 1 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | water | 1 mL | O | H2O
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 1-(5-Benzoyl-3-pyridin-4-yl-thiophen-2-yl)-piperidin-4-one | 22 mg, 63% | C(C1=CC=CC=C1)(=O)C1=CC(=C(S1)N1CCC(CC1)=O)C1=CC=NC=C1 | C21H18N2O2S
